US04366250
The treatment of a solution at 5% of 2-amino-3-phenyl propionamide hydrochloride in water (pH included between 6.5 and 8.5) is effected by a suspension of cells of strain A4 at 20 to 40 g of dry matter per liter. One obtains quantitatively L-phenylalanine (50%) and the corresponding D-amide (50%). This D amide can either be hydrolized in D-phenylalanine by action of strain R 312 (CBS 717.73) or racemized and recycled in regard to preparation of L-phenyl-alanine.

reactant | 2-amino-3-phenyl propionamide hydrochloride | Cl.NC(C(=O)N)CC1=CC=CC=C1
reactant | water | O | H2O
product | L-phenylalanine | 50% | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
